* JSIM deck file generated with TimEx
* === DEVICE-UNDER-TEST ===
* Back-annotated simulation file written by InductEx v.6.0.4 on 1-4-21.
* Author: L. Schindler
* Version: 2.1
* Last modification date: 4 June 2021
* Last modification by: L. Schindler
* Copyright (c) 2018-2021 Lieze Schindler, Stellenbosch University
* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:
* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.
* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.
*For questions about the library, contact Lieze Schindler, lschindler@sun.ac.za
* The cell is not designed to be connected directly to passive transmission lines
*$Ports a b clk q
.subckt LSmitll_XOR a b clk  q
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param LP=0.2p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.70
.param B1=2.5
.param B2=2.09
.param B3=1.71
.param B4=B1
.param B5=B2
.param B6=B3
.param B7=1.62
.param B8=2.5
.param B9=1.45
.param B10=0.89
.param B11=2.5
.param IB1=175u
.param IB2=112u
.param IB3=IB1
.param IB4=IB2
.param IB5=175u
.param IB6=175u
.param L1=Phi0/(4*IC*Ic0)
.param L2=Phi0/(2*B1*Ic0)
.param L3=1.2p
.param L4=Phi0/(B2*Ic0)
.param L5=L1
.param L6=L2
.param L7=L3
.param L8=L4
.param L9=1.2p
.param L10=Phi0/(4*IC*Ic0)
.param L11=Phi0/(2*B8*Ic0)
.param L12=Phi0/(2*B10*Ic0)
.param L13=Phi0/(4*IC*Ic0)
.param RB1=B0Rs/B1       
.param RB2=B0Rs/B2       
.param RB3=B0Rs/B3          
.param RB4=B0Rs/B4         
.param RB5=B0Rs/B5         
.param RB6=B0Rs/B6          
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8         
.param RB9=B0Rs/B9         
.param RB10=B0Rs/B10
.param RB11=B0Rs/B11
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet+LP
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet+LP
.param LRB6=(RB6/Rsheet)*Lsheet+LP
.param LRB7=(RB7/Rsheet)*Lsheet+LP
.param LRB8=(RB8/Rsheet)*Lsheet+LP
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet+LP
.param LRB11=(RB11/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 25 6 jjmit area=B3
B4 9 10 jjmit area=B4
B5 12 13 jjmit area=B5
B6 26 14 jjmit area=B6
B7 27 16 jjmit area=B7
B8 17 18 jjmit area=B8
B9 20 16 jjmit area=B9
B10 16 21 jjmit area=B10
B11 22 23 jjmit area=B11
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 7 pwl(0 0 5p IB2)
IB3 0 11 pwl(0 0 5p IB3)
IB4 0 15 pwl(0 0 5p IB4)
IB5 0 19 pwl(0 0 5p IB5)
IB6 0 24 pwl(0 0 5p IB6)
LB1 3 1 LB
LB2 7 6 LB
LB3 11 9 LB
LB4 15 14 LB
LB5 19 17 LB
LB6 24 22 LB
L1 a 1 2.06E-12
L2 1 4 3.233E-12
L3 4 25 1.419E-12
L4 6 8 6.051E-12
L5 b 9 2.092E-12
L6 9 12 3.221E-12
L7 12 26 1.384E-12
L8 14 8 6.059E-12
L9 8 27 1.301E-12
L10 clk 17 2.082E-12
L11 17 20 1.43E-12
L12 16 22 3.892E-12
L13 22 q 2.077E-12
LP1 2 0 5.508E-13
LP2 5 0 4.769E-13
LP4 10 0 4.767E-13
LP5 13 0 4.812E-13
LP8 18 0 4.526E-13
LP10 21 0 5.69E-13
LP11 23 0 4.746E-13
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 0 LRB2
RB3 4 106 RB3
LRB3 106 6 LRB3
RB4 9 109 RB4
LRB4 109 0 LRB4
RB5 12 112 RB5
LRB5 112 0 LRB5
RB6 12 114 RB6
LRB6 114 14 LRB6
RB7 8 108 RB7
LRB7 108 16 LRB7
RB8 17 117 RB8
LRB8 117 0 LRB8
RB9 20 120 RB9
LRB9 120 16 LRB9
RB10 16 116 RB10
LRB10 116 0 LRB10
RB11 22 122 RB11
LRB11 122 0 LRB11
.ends
* === SOURCE DEFINITION ===
.SUBCKT SOURCECELL  8 11
b1   1  2  jjmitll100 area=2.25
b2   3  4  jjmitll100 area=2.25
b3   5  6  jjmitll100 area=2.5
ib1  0  2  pwl(0 0 5p 275ua)
ib2  0  5  pwl(0 0 5p 175ua)
l1   8  7  1p
l2   7  0  3.9p
l3   7  1  0.6p
l4   2  3  1.1p
l5   3  5  4.5p
l6   5  11 2p
lp2  4  0  0.2p
lp3  6  0  0.2p
lrb1 9  2  1p
lrb2 10 4  1p
lrb3 12 6  1p
rb1  1  9  4.31
rb2  3  10 4.31
rb3  5  12 3.88
.model jjmitll100 jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.ENDS SOURCECELL
* === INPUT LOAD DEFINITION ===
.SUBCKT LOADINCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.2p
.param ic=2.5
.param lptl=2p
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b1*ic0)
.param l4=phi0/(4*b2*ic0)
.param rb1=2.743962
.param rb2=2.743962
.param lrb1=1.750339e-12
.param lrb2=1.750339e-12
.param lp1=lp
.param lp2=lp
b1 1 2 jjmit area=b1
b2 6 7 jjmit area=b2
ib1 0 5 pwl(0 0 5p ib1)
l1 a 1 l1
l2 1 4 l2
l3 4 6 l3
l4 6 q l4
lp1 2 0 lp1
lp2 7 0 lp2
lb1 5 4 lb1
rb1 1 3 rb1
rb2 6 8 rb2
lrb1 3 0 lrb1
lrb2 8 0 lrb2
.ENDS LOADINCELL
* === OUTPUT LOAD DEFINITION ===
.SUBCKT LOADOUTCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.2p
.param ic=2.5
.param lptl=2p
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b1*ic0)
.param l4=phi0/(4*b2*ic0)
.param rb1=2.743962
.param rb2=2.743962
.param lrb1=1.750339e-12
.param lrb2=1.750339e-12
.param lp1=lp
.param lp2=lp
b1 1 2 jjmit area=b1
b2 6 7 jjmit area=b2
ib1 0 5 pwl(0 0 5p ib1)
l1 a 1 l1
l2 1 4 l2
l3 4 6 l3
l4 6 q l4
lp1 2 0 lp1
lp2 7 0 lp2
lb1 5 4 lb1
rb1 1 3 rb1
rb2 6 8 rb2
lrb1 3 0 lrb1
lrb2 8 0 lrb2
.ENDS LOADOUTCELL
* === SINK DEFINITION ===
.SUBCKT SINKCELL  1
r1 1 0 2
.ENDS SINKCELL
* ===== MAIN =====
.param cval = 600u
I_a 0 1 pwl(0 0 150p 0 153p cval 155p 0
+250p 0 253p cval 255p 0
+400p 0 403p cval 405p 0
+650p 0 653p cval 655p 0
+800p 0 803p cval 805p 0)

I_b 0 4  pwl(650p 0 653p cval 655p 0
+800p 0 803p cval 805p 0)
*+700p 0 703p cval 705p 0
*+710p 0 713p cval 715p 0

XSOURCEINa SOURCECELL 1 2
XLOADINa LOADINCELL 2 3

XSOURCEINb SOURCECELL 4 5
XLOADINb LOADINCELL 5 6
I_clk 0 7 pulse(0 600u 0p 2p 2p 1p 100p)
XSOURCEINclk SOURCECELL 7 8
XLOADINclk LOADINCELL 8 9
XLOADOUTq LOADOUTCELL 10 11
XSINKOUTq SINKCELL 11
XDUT lsmitll_xor 3 6 9 10
.tran 0.025p 1000p 0
.print i(L1.XDUT) i(L5.XDUT) i(L10.XDUT) i(LP10.XDUT) p(B10.XDUT) P(B11.XDUT) p(B7.XDUT) p(B9.XDUT) i(L13.XDUT)
.end
